US04849434
To a solution of 100 g (0.59 mole) of 4-chlorophenylacetic acid in 165 ml of 1,2-dichloroethane and 96 ml (2.4 moles) of methanol was added 2.75 ml of concentrated sulfuric acid, and the mixture was refluxed for 6 hours. It was then cooled, poured into an aqueous sodium bicarbonate solution and stirred. The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated to dryness to give 102 g (94% yield) of methyl (4-chlorophenyl)acetate.

reactant | 4-chlorophenylacetic acid | 0.59 mole, 100 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | methanol | 2.4 moles, 96 ml | CO | CH4O
reactant | sulfuric acid | 2.75 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 165 ml | ClCCCl | C2H4Cl2
product | methyl (4-chlorophenyl)acetate | 102 g, 94% yield | ClC1=CC=C(C=C1)CC(=O)OC | C9H9ClO2
